US04920133
A solution of diisobutyl aluminum hydride (0.01 mol) in hexane is added dropwise to a solution of methyl 3-(3-(2-quinolinylmethyloxy)benzyl)benzoate (0.01 mol) in 100 ml of THF at 0° C. The reaction mixture is stirred at 0° C. for 30 minutes and then quenched with methanol and Rochelle salt. Extraction with ethyl acetate and purified by column chromatography gives 3-(3-(2-quinolinylmethyloxy)benzyl)benzaldehyde.

reactant | diisobutyl aluminum hydride | 0.01 mol | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 3-(3-(2-quinolinylmethyloxy)benzyl)benzoate | 0.01 mol | N1=C(C=CC2=CC=CC=C12)COC=1C=C(CC=2C=C(C(=O)OC)C=CC2)C=CC1 | C25H21NO3
solvent | hexane | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(3-(2-quinolinylmethyloxy)benzyl)benzaldehyde | N1=C(C=CC2=CC=CC=C12)COC=1C=C(CC=2C=C(C=O)C=CC2)C=CC1 | C24H19NO2
